.title KiCad schematic
.include "C:\Users\Elvis\3D Objects\Electronique\KICAD\KICAD 6\brushless_1\irf7401_IR.lib"
.include "C:\Users\Elvis\3D Objects\Electronique\KICAD\KICAD 6\brushless_1\lm324.model"
C5 vout Net-_C5-Pad2_ 20m
XQ2 Net-_L1-Pad1_ cmd2 GND irf7401_IR
L1 Net-_L1-Pad1_ vout 0.5m
XQ3 VCC cmd2 Net-_C5-Pad2_ irf7401_IR
XQ1 VCC cmd1 Net-_L1-Pad1_ irf7401_IR
XQ4 Net-_C5-Pad2_ cmd1 GND irf7401_IR
R2 vout Net-_C5-Pad2_ 1
V3 VCC GND dc 12
V1 triangle GND pulse(-6 6 0 495u 495u 10u 1m)
XU2 sin triangle VCC GND cmd2 LM324
XU1 triangle sin VCC GND cmd1 LM324
V2 sin GND sin(0 2 50 0 0)
C1 VCC GND 10u
C3 VCC GND 10u
C2 VCC GND 10u
.save @c5[i]
.save @l1[i]
.save @r2[i]
.save @v3[i]
.save @v1[i]
.save @v2[i]
.save @c1[i]
.save @c3[i]
.save @c2[i]
.save V(Net-_C5-Pad2_)
.save V(Net-_L1-Pad1_)
.save V(VCC)
.save V(cmd1)
.save V(cmd2)
.save V(sin)
.save V(triangle)
.save V(unconnected-_U1-Pad1_)
.save V(unconnected-_U1-Pad5_)
.save V(unconnected-_U1-Pad8_)
.save V(unconnected-_U2-Pad1_)
.save V(unconnected-_U2-Pad5_)
.save V(unconnected-_U2-Pad8_)
.save V(vout)
.tran 1u 200m 

.end

