**********
*SRC=MTB75N05H;MTB75N05H;MOSFETs N;Power <=100V;Mot 50V 75A 0.0095ohm 
*SYM=POWMOSN
.SUBCKT MTB75N05H 10 20 30
*     TERMINALS:  D  G  S
M1   1  2  3  3  DMOS L=1U W=1U
RD  10  1  3.51M
RS  40  3  1.24M
RG  20  2  17.9
CGS  2  3  2.37N
EGD 12  0  2  1  1
VFB 14  0  0
FFB  2  1  VFB  1
CGD 13 14  2.95N
R1  13  0  1
D1  12 13  DLIM
DDG 15 14  DCGD
R2  12 15  1
D2  15  0  DLIM
DSD  3 10  DSUB
LS  30 40  7.5N
.MODEL DMOS NMOS (LEVEL=3 VMAX=104K THETA=58.1M ETA=2M VTO=3.1 KP=34.9)
.MODEL DCGD D (CJO=2.95N VJ=0.6 M=0.68)
.MODEL DSUB D (IS=311N N=1.5 RS=2.93M BV=50 CJO=3.31N VJ=0.8 M=0.42 TT=57N)
.MODEL DLIM D (IS=100U)
.ENDS