
.subckt file_4_output 1 2 3 4 

.model filesrc filesource (file="C:\\Users\\Elvis\\Documents\\Code Source\\Python Script\\ngspice\\pwm.m" amploffset=[0 0 0 0 0] amplscale=[1 1 1 1 1]
+timeoffset=0 timescale=1
+timerelative=false amplstep=false)

a8 %vd([1 GND 2 GND 3 GND 4 GND 5 GND]) filesrc
R1 5 GND 100k

.ends

.subckt file_1_output 1 

.model filesrc filesource (file="pwm1.m" amploffset=[0] amplscale=[1]
+timeoffset=0 timescale=1
+timerelative=false amplstep=false)

a8 %vd([1 GND 2 GND]) filesrc
R1 2 GND 900K

.ends